US04024134
a. 7β-Formamido-3-(5-methyl-1,3,4-thiadiazol-2-yl) thiomethylceph-3-em-4-carboxylic acid
A solution of 7β-formamido-3-acetoxymethylceph-3-em-4-carboxylic acid (24.0 g) and 5-methyl-1,3,4-thiadiazole-2-thiol (10.56g) in M.pH 6.4 phosphate buffer (600 ml.) was heated at 60° for 41/2 hours. The solution was cooled to 20° and the pH was adjusted from 6 to 5 with phosphoric acid. The solution was extracted with ethyl acetate the pH of the aqueous layer was taken to 2 with phosphoric acid and the product was extracted into ethyl acetate. The extract was washed with brine, dired and concentrated to a low volume under reduced pressure and added to stirred petroleum. The resulting solid was collected and dried to give the title compound (9.36 g.) [α]D -98° (c 1 DMSO),λmax. (pH 6 buffer) 271 nm (ε 11,400), τ values (D2 0 + NaHCO3) include 1.74 (s;CHO), 4.30 (d, J 4.5 Hz; C-7 H), 4.88 (d, J. 4.5 Hz; C-5 H) and 7.25 (s; CH3).

reactant | 7β-formamido-3-acetoxymethylceph-3-em-4-carboxylic acid | 24.0 g | C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(C)=O)C(=O)O)C1=O | C11H12N2O6S
reactant | 5-methyl-1,3,4-thiadiazole-2-thiol | 10.56g | CC1=NN=C(S1)S | C3H4N2S2
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
solvent | phosphate | 600 ml, pH 6.4 | P(=O)([O-])([O-])[O-]
product | 7β-Formamido-3-(5-methyl-1,3,4-thiadiazol-2-yl) thiomethylceph-3-em-4-carboxylic acid | 9.36 g | C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)C)C(=O)O)C1=O | C12H12N4O4S3
